US04358307
4-[N-Methyl-N-(6,7-dichloro-2-quinoxalinyl)amino]phenol was reacted with ethyl 2-bromopropionate, following essentially the same procedure as that described in Example 1 Part (b), to give ethyl 2-{4-[N-methyl-N-(6,7-dichloro-2-quinoxalinyl)amino]phenoxy}propionate, mp 79° C. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 8.25 (1H, s, quinoxaline hetero-ring proton); 7.9 (1H, s, quinoxaline benzo-ring proton); 7.8 (1H, s, quinoxaline benzo-ring proton); 7.2 (4H, m, phenoxy protons); 4.85 (1H, q, CH-CH3); 4.3 (2H, q, CH2 -CH3); 3.55 (3H, s, N-CH3); 1.7 (3H, d, CH-CH3); 1.3 (3H, t, CH2 -CH3).

reactant | 4-[N-Methyl-N-(6,7-dichloro-2-quinoxalinyl)amino]phenol | CN(C1=NC2=CC(=C(C=C2N=C1)Cl)Cl)C1=CC=C(C=C1)O | C15H11Cl2N3O
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
product | ethyl 2-{4-[N-methyl-N-(6,7-dichloro-2-quinoxalinyl)amino]phenoxy}propionate | CN(C1=NC2=CC(=C(C=C2N=C1)Cl)Cl)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H19Cl2N3O3
